US07102008B2
The 3-(4-benzyloxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester (1.0 g, 3.07 mmol) was taken up in methanol (10 mL) and ethyl acetate (10 mL), nitrogen gas was bubbled though the solution for 15 min, and 10% Pd/C catalyst was added. The reaction was charged with hydrogen to 40 PSI and shaken for 5 h. The reaction was filtered though Celite® and concentrated to give 3-(4-hydroxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester (0.724 g, 100%) as an oil. MS found: (M+H)+=237.

reactant | 3-(4-benzyloxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester | 3.07 mmol, 1.0 g | C(C)OC(C(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)C)=O | C20H22O4
solvent | methanol | 10 mL | CO | CH4O
product | 3-(4-hydroxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester | 0.724 g, 100% | C(C)OC(C(C(=O)C1=CC=C(C=C1)O)(C)C)=O | C13H16O4
